US06777409B2
2-Benzoyl-4-(2-bromo-5-fluorophenyl)-4-methylvaleric acid-methyl ester
A suspension of 10.9 g (50.8 mmol) of sodium periodate in 140 ml of water-acetonitrile-tetrachloromethane (4:2:1) is mixed with 45 mg (0.34 mmol) of ruthenium(IV)oxide-hydrate. After 10 minutes, a solution of 2-[1-benzoyl-3-(2-bromo-5-fluorophenyl)-3-methylbutyl]furan in 40 ml of acetonitrile is added to it, it is stirred for another 10 minutes, and the batch is poured into 400 ml of saturated Na2SO3. A pH of 5 is set with 10% citric acid, and the batch is extracted with ethyl acetate. The combined extracts are dried (Na2SO4) and concentrated by evaporation in a vacuum. The residue is taken up in 8 ml of DMF and treated with 0.42 ml (6.8 mmol) of methyl iodide and 2.21 g (6.8 mmol) of cesium carbonate. After 5 hours at room temperature, the batch is diluted with 600 ml of MTBE, washed with 10% sulfuric acid and saturated NaCl, dried (Na2SO4) and concentrated by evaporation in a vacuum. Column chromatography on silica gel with hexane-ethyl acetate yields 0.9 g of product.

reactant | sodium periodate | 50.8 mmol, 10.9 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | 2-[1-benzoyl-3-(2-bromo-5-fluorophenyl)-3-methylbutyl]furan | C(C1=CC=CC=C1)(=O)C(CC(C)(C)C1=C(C=CC(=C1)F)Br)C=1OC=CC1 | C22H20BrFO2
reactant | Na2SO3 | 400 ml | [O-]S(=O)[O-].[Na+].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | methyl iodide | 6.8 mmol, 0.42 ml | CI | CH3I
reactant | cesium carbonate | 6.8 mmol, 2.21 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | water acetonitrile tetrachloromethane | 140 ml | O.C(C)#N.ClC(Cl)(Cl)Cl
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
solvent | MTBE | 600 ml | CC(C)(C)OC | C5H12O
catalyst | ruthenium(IV)oxide-hydrate | 0.34 mmol, 45 mg | O.[Ru](=O)=O
product | 2-Benzoyl-4-(2-bromo-5-fluorophenyl)-4-methylvaleric acid-methyl ester | 0.9 g | COC(C(CC(C)(C)C1=C(C=CC(=C1)F)Br)C(C1=CC=CC=C1)=O)=O | C20H20BrFO3
